US08604019B2
N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine
The title compound was prepared in analogy to Example 1-1 in Scheme 1 by using 2,4-dichlorothieno[3,2-d]pyrimidine and propane-1,3-diamne, followed by reaction with 2,3,4,5-tetrahydro-1,4-benzothiazepine-1,1-dioxide. MS obsd. (ESI+) [(M+H)+] 404, 1H NMR (400 MHz, METHANOL-d4) δ ppm 8.04 (d, J=7.3 Hz, 1H), 7.73 (d, J=7.1 Hz, 1H), 7.46-7.57 (m, 2H), 7.34-7.42 (m, 1H), 7.10 (d, J=5.3 Hz, 1H), 5.19 (br. s., 2H), 3.76 (br. s., 2H), 3.44-3.54 (m, 4H), 3.00 (t, J=6.1 Hz, 2H), 1.88 (m, 2H).

reactant | 2,4-dichlorothieno[3,2-d]pyrimidine | ClC=1N=C(C2=C(N1)C=CS2)Cl | C6H2Cl2N2S
reactant | 2,3,4,5-tetrahydro-1,4-benzothiazepine-1,1-dioxide | S1(CCNCC2=C1C=CC=C2)(=O)=O | C9H11NO2S
product | N-[2-(1,1-Dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)thieno[3,2-d]pyrimidin-4-yl]propane-1,3-diamine | O=S1(CCN(CC2=C1C=CC=C2)C=2N=C(C1=C(N2)C=CS1)NCCCN)=O | C18H21N5O2S2
